US04473085
Preparation And Pyrolysis Of Ethyl 2-Propyl-3-hydroxy-3-methyl-3-phenylpropionate
A 10 milligram sample of the prepared hydroxy-ester is pyrolyzed is an open tube at 250° C. for 5 minutes. Examinationof the pyrolyzate by G.C., L.C. and T.L.C. indicates >90% decomposition to form a 1:1 mixture of acetophenone and ethyl valerate.

reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | ethyl valerate | C(CCCC)(=O)OCC | C7H14O2
product | Ethyl 2-Propyl-3-hydroxy-3-methyl-3-phenylpropionate | C(CC)C(C(=O)OCC)C(C1=CC=CC=C1)(C)O | C15H22O3
